US06291455B1
A mixture of 7-(3-morpholinopropoxy)-3,4-dihydroquinazolin-4-one (200 mg, 0.69 mmol) in thionyl chloride (5 ml) and DMF (0.1 ml) was heated at reflux for 1 hour. The solution was diluted with toluene and the volatiles removed by evaporation. The residue was dissolved in methylene chloride and ether was added. The resulting precipitate was collected by filtration, washed with ether and dried under vacuum to give 4-chloro-7-(3-morpholinopropoxy)quinazoline hydrochloride (238 mg, 100%).

reactant | 7-(3-morpholinopropoxy)-3,4-dihydroquinazolin-4-one | 0.69 mmol, 200 mg | O1CCN(CC1)CCCOC1=CC=C2C(NC=NC2=C1)=O | C15H19N3O3
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 0.1 ml | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-7-(3-morpholinopropoxy)quinazoline hydrochloride | 238 mg, 100% | Cl.ClC1=NC=NC2=CC(=CC=C12)OCCCN1CCOCC1 | InChI=1S/C15H18ClN3O2.ClH/c16-15-13-3-2-12(10-14(13)17-11-18-15)21-7-1-4-19-5-8-20-9-6-19;/h2-3,10-11H,1,4-9H2;1H
